Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE 
 
Date: ___
Time: 20:00
PCP: ___: pg: ___, ___: ___ 
 
The patient is a ___ F h/o DM2, CRI (baseline 1.2-1.4), who was 
brought in from her adult rehab with increased lethargy and 
sleeping over the past several days. She has no complaints at 
this time. Per report, she has had increased fasting blood 
sugars up to 500 today and urine frequency with foul smelling 
urine at her adult daycare. Of note she has been showing up late 
to her adult daycare, which causes her to miss her insulin dose. 

 
 
In ER: 
VS: 97.4 81 119/62 16 98% RA 

Studies: ECG: unremarkable
Fluids given: 2L IVF
Meds given: none
Consults called: none

VS prior to transfer to the floor: 117/59 79 15 96%RA
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies visual changes, headache, sinus tenderness, 
rhinorrhea, congestion or sore throat. Denies chest pain or 
tightness, palpitations, orthopnea, dyspnea on exertion. Denies 
cough, shortness of breath, wheezes or pleuritic pain. Denies 
nausea, vomiting, diarrhea, constipation, BRBPR, melena. Denies 
arthralgias or myalgias. Denies rashes. No numbness/tingling or 
muscle weakness in extremities. No feelings of depression or 
anxiety. All other review of systems negative. 
 
Past Medical History:
dm2
cri (baseline creatinine 1.2-1.4)
HYPERTENSION   
HYPERLIPIDEMIA   
INSOMNIA   
MICROVASCULAR CEREBRAL INFARCTS   
? POSITIVE RPR ___ 
KIDNEY STONES ___ 
LEG WEAKNESS ___ 
OSTEOPENIA ___ 
KNEE PAIN   

 
Social History:
___
Family History:
not relevant
 
Physical Exam:
VS: 97.8 116/74 72 16 94%RA
 
GEN: Alert (only speaks ___ and no translator or family 
available); no apperent distress
HEENT: no trauma, pupils round and reactive to light and 
accomodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: mild expiratory wheezes bilaterally, no 
rales/crackles/rhonchi
GI: soft, non-tender, non-distended; no guarding/rebound
EXT: no clubbing/cyanosis/edema; 2+ distal pulses; peripheral IV 
present
NEURO: ___ motor function globally
DERM: no lesions appreciated
 
 
 
Pertinent Results:
___ 04:30PM   WBC-11.2* RBC-4.43 HGB-11.9* HCT-35.1* 
MCV-79* MCH-26.8* MCHC-33.9 RDW-14.5
___ 04:30PM   NEUTS-64.9 ___ MONOS-6.3 EOS-1.5 
BASOS-0.3
___ 04:30PM   PLT COUNT-272
___ 04:30PM   ___ PTT-25.7 ___
___ 04:30PM   GLUCOSE-308* UREA N-31* CREAT-1.4* SODIUM-138 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-31 ANION GAP-12
___ 04:30PM   ALT(SGPT)-18 AST(SGOT)-18 ALK PHOS-59 TOT 
BILI-0.2
___ 04:30PM   cTropnT-<0.01
___ 04:30PM   CK-MB-3
___ 05:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-TR
___ 05:30PM URINE  ___ BACTERIA-NONE YEAST-NONE 
___

PA/LAT CXR:
1. Mild interstitial pulmonary edema. 
2. Patchy left mid lung opacity without significant change, may 
be due to 
chronic scarring. 

Blood cx: NGTD
 
Brief Hospital Course:
___ h/o DM2, HTN, HL, CRI p/w lethargy and urinary frequency and 
found to be hyperglycemic at adult daycare.
.
1. Diabetes mellitus, type 2: Uncontrolled due to inability to 
reach adult daycare on time to get her insulin dose.  Her blood 
sugars improved with adequate administration of her home 
regimen.  Continue Lantus 50 units daily with sliding scale.
.
2. ___: Stable. At baseline creatinine. Will continue IVF 
slowly given hyperglycemia likely causing urinary losses, 
resulting in an elevated BUN.
- Encourage good hydration
.
3. Hypertension, benign: Stable.  Continued home regimen.  
Resumed home lasix.
.
4. Hyperlipidemia: Will continue zocor 40 mg 1 po daily.
.
5. H/o microvascular cerebral infarcts: Will continue home 
aspirin 325 mg 1 po daily.
 .
6. Prophylaxis: Heparin sub-Q 5000 Units TID for VTE 
prophylaxis.
.
7. Encephalopathy/Social Issues: Likely mild delirium due to 
high blood sugar and volume depletion.  Improved with correction 
of this.  She likely has underling dementia as well.  Geriatrics 
was consulted.  It was determined that her currently living 
environment was unsafe.  Her house was found to be ill-kept.  
Her sons were contacted and involved.  A family meeting was 
held.  It was determined that she must not go home without 
constant supervision.  Her sons are making arrangements for 
this.  A family member is attempting to come to the ___ from 
___.  The ultimate goal is for the patient to travel back to 
___.  A letter was written to facilitate a visa for her 
family member.
 
Medications on Admission:
1. acetaminophen 650 mg 1 po BID prn
2. Artificial tears 1 drop topical qid
3. aspirin 325 mg 1 po daily
4. calcium carbonate 600 mg 1 po BID
5. Carvedilol 3.125 mg 1 po BID
6. Celebrex ___ mg 1 po daily prn
7. Humulin R 6U qam prn sugar >100
8. Lantus 50 U sub-q daily
9. lasix 40 mg 1 po daily
10. Lisinopril 40 mg 1 po daily
11. metamucil 1 tbsp po prn constipation
12. Mirtazapine 30 mg 1 po daily
13. nifedipine 90 mg 1 po daily
14. Oxybutynin chloride 10 mg 1 po daily
15. Seroquel 50 mg 1 po qhs
16. Triamcinolone acet 0.1% topical apply BID prn rash
17. Zocor 40 mg 1 po daily
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain or fever.  
2. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Artificial Tears     Drops Sig: ___ drops Ophthalmic once a 
day as needed for eye irritation.  
4. Calcium 600 600 mg (1,500 mg) Tablet Sig: One (1) Tablet PO 
twice a day.  
5. carvedilol 3.125 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Celebrex ___ mg Capsule Sig: One (1) Capsule PO once a day as 
needed for fever or pain.  
7. Lantus 100 unit/mL Solution Sig: Fifty (50) units 
Subcutaneous once a day.  
8. Humalog 100 unit/mL Solution Sig: ___ units Subcutaneous 
qACHS: according to sliding scale.  
9. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. mirtazapine 15 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. nifedipine 90 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO DAILY (Daily).  
13. quetiapine 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
14. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime).  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: ___ nebs Inhalation Q6H (every 6 hours) as 
needed for sob/wheezes.  
18. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day).  
19. oxybutynin chloride 10 mg Tablet Extended Rel 24 hr Sig: One 
(1) Tablet Extended Rel 24 hr PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Encephalopathy, confusion/delirium
Type 2 diabetes mellitus, uncontrolled
Hypertension
Chronic diastolic CHF
likely dementia
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Patient was admitted with mild confusion, high blood sugar, and 
dehydration.  Her symptoms improved in the hospital.  She was 
evaluated by our geriatricians and physical/occupational 
therapists.  She will be going to rehab for further medical 
stabilization and determination of a safe living situation going 
forward.

Please take all medications as prescribed and keep all follow up 
appointments
 
Followup Instructions:
___